US05703071
7-hydroxymethyl-4-isopropyl-2-methoxy-2,4,6-cycloheptatrien-1-one (2.81 g, 13.5 mmol) and pyridine (1.31 ml, 16.2 mmol) were dissolved in dichloromethane (5 ml) and cooled to 0° C. The solution was stirred while methanesulfonyl chloride (1.25 ml, 16.2 mmol) was added thereto. After stirred at 0° C. for 2 hours, the reaction solution was slowly brought back to room temperature. After 2 hours, the reaction solution was diluted with dichloromethane, washed with aqueous saturated sodium bicarbonate, water and 2N HCl, then dried over sodium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography [eluent: hexane/ethyl acetate (1:1)] to give 1.38 g of 7-chloromethyl-4-isopropyl-2-methoxy-2,4,6-cycloheptatrien-1-one (yield: 45%) as a pale yellow oil. This oil was solidified when allowed to stand at room temperature.

reactant | 7-hydroxymethyl-4-isopropyl-2-methoxy-2,4,6-cycloheptatrien-1-one | 13.5 mmol, 2.81 g | OCC1=CC=C(C=C(C1=O)OC)C(C)C | C12H16O3
reactant | pyridine | 16.2 mmol, 1.31 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 16.2 mmol, 1.25 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 7-chloromethyl-4-isopropyl-2-methoxy-2,4,6-cycloheptatrien-1-one | 1.38 g, yield: 45% | ClCC1=CC=C(C=C(C1=O)OC)C(C)C | C12H15ClO2
